US07691882B2
(5-Phenoxy-pyridin-3-yl)-methanol
To a suspension of lithium aluminum hydride (689 mg, 14.5 mmol, purity: 80%) in tetrahydrofuran (20 mL) was added 5-phenoxy-nicotinic acid methyl ester (1.11 g, 4.84 mmol) described in Manufacturing Example 145-1-1 at 0° C., which was stirred for 20 minutes at room temperature. First water (689 μL), then a 5 N sodium hydroxide aqueous solution (689 μL), and then water (2.07 mL) were added at 0° C. to the reaction mixture, which was filtered through a Celite pad. The filtrate was concentrated under a reduced pressure, and the residue was purified by NH silica gel column chromatography (heptane:ethyl acetate=1:1) to obtain the title compound (756 mg, 78%).

reactant | lithium aluminum hydride | 14.5 mmol, 689 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 5-phenoxy-nicotinic acid methyl ester | 4.84 mmol, 1.11 g | COC(C1=CN=CC(=C1)OC1=CC=CC=C1)=O | C13H11NO3
reactant | water | 689 μL | O | H2O
reactant | sodium hydroxide | 5 N, 689 μL | [OH-].[Na+]
reactant | water | 2.07 mL | O | H2O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | (5-Phenoxy-pyridin-3-yl)-methanol | 756 mg, 78% | O(C1=CC=CC=C1)C=1C=C(C=NC1)CO | C12H11NO2
